US08183381B2
Step 1: tert-Butyl 4-hydroxy-2-methylpiperidine-1-carboxylate
To a solution of tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate (0.94 g, 4.41 mmol) in methanol (5 mL) was added sodium borohydride (0.22 g, 5.73 mmol) and the reaction was stirred at room temperature for 1 h. Water was added slowly, followed by ethyl acetate. The layers were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo to afford the desired product as a mixture of four stereoisomers, which was used in the next step without further purification.

reactant | tert-butyl 2-methyl-4-oxopiperidine-1-carboxylate | 4.41 mmol, 0.94 g | CC1N(CCC(C1)=O)C(=O)OC(C)(C)C | C11H19NO3
reactant | sodium borohydride | 5.73 mmol, 0.22 g | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
product | tert-Butyl 4-hydroxy-2-methylpiperidine-1-carboxylate | OC1CC(N(CC1)C(=O)OC(C)(C)C)C | C11H21NO3
